US04831013
A mixture of the ethyl carbamate of 1-amino-2-cyanocyclohept-1-ene (11.6 g), o-fluorobenzhydrazide (8.74 g) and 1-methyl-2-pyrrolidone (140 mL) is stirred at reflux under nitrogen for 18 hours, cooled and triturated with water to produce solid material. It is recrystallized from (±)1-methoxy-2-propanol to afford pure 2-(2-fluorophenyl)-8,9,10,11-tetrahydro-7H-cyclohepta[e][1,2,4]triazolo-[1,5-c]pyrimidin-5(6H)one, m.p. 257°-259°, in 63% yield.

reactant | ethyl carbamate | C(N)(OCC)=O | C3H7NO2
reactant | 1-amino-2-cyanocyclohept-1-ene | 11.6 g | NC1=C(CCCCC1)C#N | C8H12N2
reactant | o-fluorobenzhydrazide | 8.74 g | FC1=C(C(=O)NN)C=CC=C1 | C7H7FN2O
solvent | 1-methyl-2-pyrrolidone | 140 mL | CN1C(CCC1)=O | C5H9NO
product | 2-(2-fluorophenyl)-8,9,10,11-tetrahydro-7H-cyclohepta[e][1,2,4]triazolo-[1,5-c]pyrimidin-5(6H)one | 63% yield | FC1=C(C=CC=C1)C1=NN2C(NC3=C(C2=N1)CCCCC3)=O | C16H15FN4O
